US09163021B2
[1-(2-{[tert-butyl(methyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl](4-chloropyridin-2-yl)methanone
1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-3-iodo-1H-pyrrolo[3,2-c]pyridine (Preparation 65, 3.99 g, 9.06 mmol) was dissolved in THF (75 mL) and the solution was degassed and cooled to −5° C. 2M iPrMgCl in THF (5.44 mL, 10.9 mmol) was added dropwise and the resulting yellow solution stirred at this temperature for 45 minutes. A solution of 4-chloro-N-methoxy-M-methylpicolinamide (2.18 g, 10.9 mmol) in THF (20 mL) was added dropwise and the reaction allowed to warm to room temperature for 4.5 hours. The reaction was partitioned between saturated aqueous ammonium chloride solution (30 mL) and EtOAc (50 mL), the organic layer was collected, dried and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 0-90% EtOAc in DCM to afford the title compound as an orange oil (2.37 g, 59%). Taken on to the next step directly.

reactant | 1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-3-iodo-1H-pyrrolo[3,2-c]pyridine | 9.06 mmol, 3.99 g | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=2C=NC=CC21)I | C17H27IN2OSi
reactant | iPrMgCl | 2M | C(C)(C)[Mg]Cl
reactant | 4-chloro-N-methoxy-M-methylpicolinamide | 10.9 mmol, 2.18 g | ClC1=C(C(=NC=C1)C(=O)NOC)C | C8H9ClN2O2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10.9 mmol, 5.44 mL | C1CCOC1 | C4H8O
product | [1-(2-{[tert-butyl(methyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl](4-chloropyridin-2-yl)methanone | 2.37 g, 59% | C(C)(C)(C)[SiH](OCC(C)(C)N1C=C(C=2C=NC=CC21)C(=O)C2=NC=CC(=C2)Cl)C | C22H28ClN3O2Si
